US07994176B2
3-Cyclohexyl-1-(2,6-dichloro-4-methoxy-benzyl)-pyrrolidin-2-one
Treat a solution of 4-bromo-2-cyclohexyl-N-(2,6-dichloro-4-methoxy-benzyl)-butyramide (2.0 g, 4.6 mmol) in THF (30 mL) with diisopropyl ethyl amine (1.19 g, 9.19 mmol) at 40° C. for 12 hours and at reflux for 6 hours. Cool the reaction, dilute with ethylacetate and wash with HCl (1N) and water. After drying the organic layer over sodium sulfate, filtrate and concentrate under vacuum. Purify the residue by silica gel chromatography with 1:4 ethyl acetate:hexane to afford 1.3 g (80%) of the title compound. MS (m/z): 356 (M+).

reactant | 4-bromo-2-cyclohexyl-N-(2,6-dichloro-4-methoxy-benzyl)-butyramide | 4.6 mmol, 2.0 g | BrCCC(C(=O)NCC1=C(C=C(C=C1Cl)OC)Cl)C1CCCCC1 | C18H24BrCl2NO2
reactant | diisopropyl ethyl amine | 9.19 mmol, 1.19 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 3-Cyclohexyl-1-(2,6-dichloro-4-methoxy-benzyl)-pyrrolidin-2-one | 1.3 g, 80% | C1(CCCCC1)C1C(N(CC1)CC1=C(C=C(C=C1Cl)OC)Cl)=O | C18H23Cl2NO2
